US07618960B2
Synthesis of methyl(2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate
A solution of 4 N hydrochloric acid in ethyl acetate (20 mL) was added to a solution of methyl(R)-2-tert-butoxycarbonylamino-6-(3,4-difluorophenyl)-6-oxohexanoate (3.8 g) in ethyl acetate (20 mL), and the reaction solution was stirred at room temperature for 5.5 hours. The reaction solution was concentrated under reduced pressure. Then, ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over magnesium sulfate and then concentrated under reduced pressure. 10% palladium-carbon (50 mg) was added to a solution of the resulting residue in methanol (20 mL), and the reaction solution was stirred in a hydrogen stream at room temperature for two hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 2.1 g of the title compound. The property value of the compound is as follows.

reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | methyl(R)-2-tert-butoxycarbonylamino-6-(3,4-difluorophenyl)-6-oxohexanoate | 3.8 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)OC)CCCC(=O)C1=CC(=C(C=C1)F)F | C18H23F2NO5
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl(2R,6S)-6-(3,4-difluorophenyl)piperidine-2-carboxylate | 2.1 g | FC=1C=C(C=CC1F)[C@@H]1CCC[C@@H](N1)C(=O)OC | C13H15F2NO2
